Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Presyncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
As per HPI in H&P by Dr. ___ ___:
"The patient is a ___ male with a past medical history 
of
insulin-dependent type 2 diabetes, hypertension, CKD, gout, who
presented to the emergency department from the ___ for
presyncope.

The patient had a regularly scheduled outpatient appointment at
___.  He was in the bathroom to give a urine sample and felt
lightheaded.  He had one episode of nonbilious, nonbloody
vomiting.  He did not lose consciousness.  Staff at the
outpatient office laid him to the ground.  He felt significantly
better after lying down.  Per report, the patient was
orthostatic.  His blood glucose was 78.  He was given glucose 
gel
by EMS and brought to the emergency department.

The patient does note that he recently started ___ with 
meals
on ___.

Patient denies any preceding chest pain, shortness of breath,
headache, diplopia, unilateral numbness or weakness. Patient
denies any recent fevers, chills, belly pain, urinary or bowel
symptoms.

Of note, the patient was recently hospitalized at ___ from ___ - ___.  He initially presented
with dyspnea, was found to have volume overload and severe ___. 
He was also treated for 5 days of ceftriaxone and doxycycline 
for
community acquired pneumonia.  Further, he was treated with a
steroid burst and taper for gout flare of his bilateral ankles
and right index finger.  His last day of the prednisone taper 
was
on ___, 1 day prior to admission.  

For his acute renal failure, he was found to be volume 
overloaded
with elevated creatinine (baseline 2.5).  He had a renal
ultrasound with no hydronephrosis.  Nephrology was consulted and
felt that the patient had allergic interstitial nephritis given
the urine sediment.  ATN/glomerulonephritis was also considered. 

Complement, RF, double-stranded DNA, ___, SSA/SSB were all
negative.  Etiology was thought to be secondary to diltiazem or
furosemide but more likely NSAIDs.  Diltiazem was stopped, and
furosemide was stopped initially.  He was discharged on 80 mg
p.o. furosemide twice daily up from 40 mg furosemide twice 
daily.
He was also started on carvedilol and calcium acetate.  His
losartan was discontinued.

Regarding his diabetes, he had a hemoglobin A1c of 10% and blood
glucose is in the 400s during the hospitalization likely
secondary to the prednisone.  His insulin was titrated to
glargine 48 units nightly and lispro 16 units with meals.  His
dulaglutide, glipizide, and pioglitazone were all stopped during
that admission.  Creatinine on discharge was 3.6.  Hemoglobin on
discharge was 8.6.

In the emergency department, vitals were notable for: 96.6 68
142/75 16 99% RA. 

Rectal exam in ED: Heme negative, brown stool

EKG: Normal sinus rhythm, normal intervals, ST elevation in V1,
V2 (V2 similar to prior)

He was given 1L NS and admitted. 

On arrival to the floor, patient verifies the above story.  He
states that he was taking 20 units of glargine every morning
instead of the prescribed 48 units nightly.  He was not taking
his blood sugar at home.  He did go to his primary care doctor 
on
the day prior to admission, at which point his blood sugar was
greater than 400.  Per his primary care doctor recommendations,
he started ___ with meals yesterday. Incidentally, his
steroid taper ended yesterday as well. 

He was never with dizzy with standing or changes in position
until his appointment today.

REVIEW OF SYSTEMS: 
Complete ROS obtained and is otherwise negative. "
 
Past Medical History:
Insulin-dependent type 2 diabetes
Hypertension
CKD
Gout
Anemia
CHF

 
Social History:
___
Family History:
DM in mother 
 
Physical ___:
ADMISSION EXAM:
VITALS: 97.9PO 174 / 85 78 18 99 RA
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally.  
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly. 
EXTREMITIES: mild swelling of DIP joint of right index finger. 
1+
pitting edema bilaterally to the ankles, mild erythema around
bilateral ankles

DISCHARGE EXAM:
VITALS: T98.9, HR 88, BP 160/76, RR 20, SpO2 99% on RA; AM FSBG 
194
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
VASC/EXT: Fingertip pitting edema in ___ bilaterally, 2+ DP 
pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
___ 12:20PM BLOOD WBC-11.8* RBC-3.19* Hgb-9.3* Hct-28.9* 
MCV-91 MCH-29.2 MCHC-32.2 RDW-14.3 RDWSD-45.0 Plt ___
___ 12:20PM BLOOD Neuts-68.4 ___ Monos-7.6 Eos-1.3 
Baso-0.3 Im ___ AbsNeut-8.06* AbsLymp-2.55 AbsMono-0.89* 
AbsEos-0.15 AbsBaso-0.03
___:20PM BLOOD Glucose-89 UreaN-74* Creat-3.3* Na-139 
K-5.5* Cl-102 HCO3-26 AnGap-11
___ 12:20PM BLOOD Calcium-8.9 Phos-4.2 Mg-1.9
___ 06:21AM BLOOD CK-MB-2 cTropnT-0.05*
___ 12:20PM BLOOD CK-MB-3 cTropnT-0.05*
___ 12:20PM BLOOD CK(CPK)-313

DISCHARGE LABS:
___ 05:40AM BLOOD WBC-10.0 RBC-3.18* Hgb-8.9* Hct-28.1* 
MCV-88 MCH-28.0 MCHC-31.7* RDW-14.2 RDWSD-45.2 Plt ___
___ 05:40AM BLOOD Glucose-179* UreaN-61* Creat-2.9* Na-143 
K-4.3 Cl-104 HCO3-28 AnGap-11
___ 05:40AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.6 Iron-23*
___ 05:40AM BLOOD calTIBC-196* VitB12-PND Folate-PND 
Ferritn-182 TRF-151*

MICRO: None

IMAGING/STUDIES: None

EKG: Normal sinus rhythm, normal intervals, ST elevation in V1,
V2, "probable normal early repol pattern"
 
Brief Hospital Course:
SUMMARY/ASSESSMENT:   
The patient is a ___ male with a past medical history of 
insulin-dependent type 2 diabetes, hypertension, CKD, gout, who 
was admitted with presyncope in the setting of relative 
hypoglycemia after the addition of mealtime insulin to his 
insulin regimen.

HOSPITAL COURSE BY PROBLEM:

# Presyncope
The etiology of the patient's presyncope was likely relative 
hypoglycemia.  Although his blood sugars were only in the ___, 
he was normally greater than 200 per outside hospital 
documentation.
He started ___ with meals the day before he ended a steroid 
taper.  The patient was orthostatic at ___ repeat 
orthostatics on arrival to the floor were negative, although 
patient received a liter of fluids in ED.  There was a thought 
that he may have been hypovolemic in the setting of an increase 
in his home Lasix from 80 mg qam/40 mg qpm to 80 mg BID. 
However, the patient had been taking the higher dose for weeks 
without any orthostasis so the more likely culprit is likely the 
uptitration in insulin regimen which coincided with 
discontinuation of steroid taper resulting in relative 
hypoglycemia. EKG with ST elevations, likely early 
repolarization abnormality. 
Troponin elevated and plateaued in the setting of CKD.  Low 
concern for cardiac etiology. His home Lasix was resumed at 80 
mg BID. His insulin regimen was adjusted as below. 

# Insulin-dependent type 2 diabetes
Patient was recently discharged on glargine 48 units nightly, 
lispro 16 units with meals (while on a steroid taper which has 
since been discontinued).  He was taking glargine 20 units every 
morning and just started lispro 12 units with meals the day 
before presentation.  His A1c at the outside hospital was 10%. 
During this hospital stay he was initially started on glargine 
units qam and sliding scale insulin. Based on the amount of 
sliding scale insulin he required, the glargine was increased to 
30 units qam. He was discharged on glargine 30 units qam without 
mealtime insulin and with plans to follow up at the ___ 
___. 

# ___ on CKD
Per ___ records, Cr was 3.6 on discharge.  His CKD 
is likely from uncontrolled diabetes and hypertension. Cr At new 
baseline on admission here.  Renal ultrasound in outside 
hospital was unremarkable.  Diltiazem and NSAIDs were stopped in 
case that may be contributing toward possible AIN. He was 
continued on calcium acetate 3 times daily with meals. Cr was 
2.9 on discharge. He will follow up with his outpatient 
nephrologist

# Normocytic anemia
Iron studies revealed a Tsat of 11%, consistent with iron 
deficiency anemia. There may also be a component of anemia of 
chronic disease in the setting of CKD.

# Chronic CHF
Patient has possible diagnosis of CHF given ___ edema and volume 
overload at last hospitalization. No known echo has been 
performed.  His Lasix was recently increased from 80 mg qam/40 
mg
qpm to 80 mg BID.  He was euvolemic on exam. His home Lasix 80 
mg BID was resumed. 

# Hypertension
Continued home carvedilol 25 mg twice daily.

# Possible BPH
Patient is prescribed doxazosin.  He does not know why.  He does 
not have any difficulty urinating. Doxazosin was discontinued in 
house.

TRANSITIONAL ISSUES:
[ ] F/u blood glucose control; ensure follow up with ___
[ ] Consider outpatient work up for iron deficiency anemia
[ ] Consider outpatient TTE to workup possible CHF

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Calcium Acetate 667 mg PO TID W/MEALS 
4. CARVedilol 25 mg PO BID 
5. Vitamin D ___ UNIT PO DAILY 
6. Doxazosin 8 mg PO HS 
7. Furosemide 80 mg PO BID 
8. Glargine 20 Units Breakfast
___ 12 Units Breakfast
___ 12 Units Lunch
___ 12 Units Dinner

 
Discharge Medications:
1.  Glargine 30 Units Breakfast
RX *insulin glargine [Lantus U-100 Insulin] 100 unit/mL AS DIR 
30 Units before BKFT; Disp #*1 Vial Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Calcium Acetate 667 mg PO TID W/MEALS  
5.  CARVedilol 25 mg PO BID  
6.  Furosemide 80 mg PO BID  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncope
Relative hypoglycemia
___ on CKD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to the hospital after an episode of 
near-fainting that occurred at ___. This was most 
likely due to the recent increase in your insulin which caused 
your blood sugars to drop. Your insulin was gently adjusted from 
glargine 20 units in the morning to glargine 30 units in the 
morning. 
You should follow up in the ___ for further adjustment 
of your insulin regimen. 
Best wishes for your continued health.
Take care,
Your ___ Care Team
 
Followup Instructions:
___